US20010056188A1
2) 3-(Benzo[1,3]dioxol-5-ylamino)-2-(4-chlorophenylsulfonyl)-3-(1,2,2-trimethyl-propylamino)- 2-propenenitrile
3-(Benzo[1,3]dioxol-5-ylamino-2-(4-chlorophenylsulfonyl)-3-methylsulfanyl-2-propenenitrile (0.327 g, 0.8 mmol) was stirred in 1,2,2-trimethylpropylamine (1 ml) for 22 h at 100° C. under nitrogen in a sealed flask. Work up as described in Example 1, 2) gave 182 mg (49%) of the title compound. Mp 160.5-162° C. 1H NMR (200 MHz, CDCl3): δ=0.78 (s, 9H), 0.9 (d, 3H), 3.22 (m, 1H), 6.0 (br s, 2H), 6.48 (m, 2H), 6.78 (br d, 1H), 7.48 (d,2H), 7.83 (d, 2H). MA C22H24CIN3O4S.0.30H2O (corrected bruttoformula); calc 56.54%C5.31%H 8.99%N; found 56.47%C5.25%H 8.90%N

reactant | Benzo[1,3]dioxol-5-ylamino-2-(4-chlorophenylsulfonyl)-3-methylsulfanyl-2-propenenitrile | 0.8 mmol, 0.327 g | O1COC2=C1C=CC(=C2)NC(=C(C#N)S(=O)(=O)C2=CC=C(C=C2)Cl)SC | C17H13ClN2O4S2
reactant | 1,2,2-trimethylpropylamine | 1 ml | CC(C(C)(C)C)N | C6H15N
product | 3-(Benzo[1,3]dioxol-5-ylamino)-2-(4-chlorophenylsulfonyl)-3-(1,2,2-trimethyl-propylamino)- 2-propenenitrile | 182 mg, 49% | O1COC2=C1C=CC(=C2)NC(=C(C#N)S(=O)(=O)C2=CC=C(C=C2)Cl)NC(C(C)(C)C)C | C22H24ClN3O4S
